US03941826
4-Bromo-2-sec-butyl-5-isopropylbenzenethiol was prepared using the procedure of Example 2B except that 4-bromo-2-sec-butyl-5-isopropylbenzenesulfonyl chloride was substituted for the 4-bromo-2,5-di-sec-butylbenzenesulfonyl chloride. The resulting product had a boiling point of 110°C at 0.35 mm Hg.

reactant | 4-bromo-2-sec-butyl-5-isopropylbenzenesulfonyl chloride | BrC1=CC(=C(C=C1C(C)C)S(=O)(=O)Cl)C(C)CC | C13H18BrClO2S
reactant | 4-bromo-2,5-di-sec-butylbenzenesulfonyl chloride | BrC1=CC(=C(C=C1C(C)CC)S(=O)(=O)Cl)C(C)CC | C14H20BrClO2S
product | 4-Bromo-2-sec-butyl-5-isopropylbenzenethiol | BrC1=CC(=C(C=C1C(C)C)S)C(C)CC | C13H19BrS
